US07776875B2
Preparation of Intermediate E/Z-4-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 6-chlorooxindole (0.84 g, 5 mmol) and 4-(4-chloro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (1.7 g, 5 mmol) in methanol (10 mL) was added pyrrolidine (0.4 mL, 5 mmol) dropwise. The mixture was then heated at 70° C. for 3 h. After cooled to 4° C., the mixture was filtered and the precipitate was collected, dried to give the title compound as a bright yellow solid (1 g).

reactant | 6-chlorooxindole | 5 mmol, 0.84 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 4-(4-chloro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 5 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)C=O | C17H22ClNO4
reactant | pyrrolidine | 5 mmol, 0.4 mL | N1CCCC1 | C4H9N
solvent | methanol | 10 mL | CO | CH4O
product | Z-4-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C25H26Cl2N2O4
